USRE029153
Employing the procedure of Example III but replacing pyridine with a substantially equimolecular amount of 4-cyanopyridine and replacing 4-nitrophenacyl bromide with a substantially equimolecular amount of 4-nitrophenacyl chloride there is obtained N-(4-nitrophenacyl) 4-cyanopyridinium chloride, a white solid soluble in water.

reactant | 4-cyanopyridine | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | 4-nitrophenacyl bromide | [N+](=O)([O-])C1=CC=C(C(CBr)=O)C=C1 | C8H6BrNO3
reactant | 4-nitrophenacyl chloride | [N+](=O)([O-])C1=CC=C(C(CCl)=O)C=C1 | C8H6ClNO3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(4-nitrophenacyl) 4-cyanopyridinium chloride | [Cl-].[N+](=O)([O-])C1=CC=C(C(C[N+]2=CC=C(C=C2)C#N)=O)C=C1 | InChI=1S/C14H10N3O3.ClH/c15-9-11-5-7-16(8-6-11)10-14(18)12-1-3-13(4-2-12)17(19)20;/h1-8H,10H2;1H/q+1;/p-1
